US06194454B1
A mixture of 3-isopropyl-4-methoxyphenol (200 mg), 4-chloro-3-cyano-5-methylnitrobenzene (200 mg) and potassium carbonate (211 mg) in methylethylketone (8 mL) was refluxed for 18 h. The dark mixture was concentrated in vacuo, partitioned between ethyl acetate/water, the organic layer washed with about 2N sodium hydroxide, brine, dried over sodium sulfate and concentrated to a dark oil. Flash chromatography (10% ethyl acetate/hexanes) afforded 2-(3-isopropyl-4-methoxy-phenoxy)-3-methyl-5-nitrobenzonitrile as a yellow oil (300 mg).

reactant | 3-isopropyl-4-methoxyphenol | 200 mg | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
reactant | 4-chloro-3-cyano-5-methylnitrobenzene | 200 mg | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C#N | C8H5ClN2O2
reactant | potassium carbonate | 211 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | 8 mL | CC(=O)CC | C4H8O
product | 2-(3-isopropyl-4-methoxy-phenoxy)-3-methyl-5-nitrobenzonitrile | 300 mg | C(C)(C)C=1C=C(OC2=C(C#N)C=C(C=C2C)[N+](=O)[O-])C=CC1OC | C18H18N2O4
